US07915250B2
To 3-[(1S)-1-aminoethyl]-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol (87.4 mg, 0.18 mmol), prepared using procedures similar to those described in Example 28, was added formaldehyde (37% aqueous, 14 mg, 0.18 mmol) in methanol (2 mL) and sodium borohydride (7 mg, 0.18 mmol). The mixture was stirred for 3 h at rt, after which sodium borohydride (16 mg, 0.42 mmol) was added. Upon stirring an additional 1.25 h, more formaldehyde (37% aqueous, 1 drop) was added, and the mixture was stirred 3 days at rt. A further small spatula (˜50 mg) of sodium borohydride was then added, and the mixture was stirred at rt for 30 min. After quenching with 1 N HCl, the reaction mixture was purified directly by preparative HPLC. The clean material was converted to its hydrochloride salt to provide 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-[(1S)-1-(methylamino)ethyl]azetidin-3-ol as a yellow solid (21.7 mg, 0.040 mmol, 22% yield). 1H NMR (400 MHz, CD3OD) δ 7.47 (dd, 1H), 7.36 (d, 1H), 7.31 (m, 1H), 7.06 (q, 1H), 6.62 (dt, 1H), 4.36 (dd, 1H), 4.21-3.91 (m, 3H), 3.44 (q, 1H), 2.66 (s, 3H), 1.29 (br m, 3H); MS (EI) for C19H19F3IN3O2: 506 (MH+).

reactant | 3-[(1S)-1-aminoethyl]-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol | 0.18 mmol, 87.4 mg | N[C@@H](C)C1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O | C18H17F3IN3O2
reactant | formaldehyde | 0.18 mmol, 14 mg | C=O | CH2O
reactant | sodium borohydride | 0.18 mmol, 7 mg | [BH4-].[Na+]
reactant | sodium borohydride | 0.42 mmol, 16 mg | [BH4-].[Na+]
reactant | sodium borohydride | ˜50 mg | [BH4-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
catalyst | formaldehyde | 1 drop | C=O | CH2O
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-[(1S)-1-(methylamino)ethyl]azetidin-3-ol | 0.040 mmol, 21.7 mg, 22% yield | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)[C@H](C)NC)NC1=C(C=C(C=C1)I)F | C19H19F3IN3O2
